US04946855
N-(4-(4-Methylphenyl)-2-thiazolyl)-1H-tetrazole-5-carboxamide; (Ib-5) (Process b):
To dry benzene (1 ml) was added dry DMF (0.296 ml, 3.95 mmol) and then thionyl chloride (0.288 ml, 3.95 mmol) under ice-cooling. The mixture was allowed to warm up to room temperature and to react for 10 minutes upon which the mixture separated into two layers. The lower layer was added dropwise under ice-cooling to a suspension of dipotassium 1H-tetrazole-5-carboxylate (500 mg, 2.63 mmol) in dry acetonitrile (10 ml) and allowed to react for 15 minutes. After adding a mixed solution of 4-(4-methylphenyl)-2-thiazolamine (500 mg, 2.63 mmol) in dry acetonitrile (3 ml) and dry pyridine (2 ml) under the same conditions, the mixture was allowed to warm up to room temperature and to react for 1 hour. The reaction mixture was dissolved by addition of water and acidified (pH=1) with 2N-HCl under ice-cooling. The produced precipitates were filtered with suction, suspended in 100 ml of water, made alkaline (pH=11 ) with 1N potassium hydroxide with heating at 60° C. and then extracted with ethyl acetate (unreacted amine removed). After acidifing the aqueous phase with 2N-HCl under ice-cooling (pH=2), the deposited solids were filtered with suction, washed with water and recrystallized from methanol-THF-water to give 271 mg (yield 36%) of pale yellow crystals of N-(4-(4-methylphenyl)-2-thiazolyl)-1H-terrazole-5-carboxamide, m.p. 250°-253° C.

reactant | DMF | 3.95 mmol, 0.296 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 3.95 mmol, 0.288 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dipotassium 1H-tetrazole-5-carboxylate | 2.63 mmol, 500 mg | N1N=NN=C1C(=O)[O-].[K+].[K+].N1N=NN=C1C(=O)[O-]
reactant | 4-(4-methylphenyl)-2-thiazolamine | 2.63 mmol, 500 mg | CC1=CC=C(C=C1)C=1N=C(SC1)N | C10H10N2S
reactant | HCl | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | benzene | 1 ml | C1=CC=CC=C1 | C6H6
product | N-(4-(4-Methylphenyl)-2-thiazolyl)-1H-tetrazole-5-carboxamide | 271 mg, yield 36% | CC1=CC=C(C=C1)C=1N=C(SC1)NC(=O)C1=NN=NN1 | C12H10N6OS
